US04663319
A mixture of ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate (1.0 g) and dimethylformamide (25 ml) is added dropwise to a suspension of sodium hydride (63% dispersion in oil, 144 mg) in dimethylformamide (10 ml). Said addition is carried out under ice-cooling. The mixture is stirred at the same temperature for 30 minutes. A solution of diethyl maleate (0.6 ml) in dimethylformamide (10 ml) is added dropwise thereto. The mixture is stirred at room temperature overnight. The mixture is poured into water, and extracted with ethyl acetate. The extract is washed with a saturated sodium chloride solution, dried and then distilled to remove the solvent. The mixture is purified by silica gel column chromatography (solvent, n-hexane:ethyl acetate=1:2) to give 1-benzyl-5-(1,3-dithiol-2-ylidene)-4,6-dioxopiperidine-2,3-dicarboxylic acid diethyl ester (196 mg) as yellow oil.

reactant | ethyl 2-(1,3-dithiol-2-ylidene)-2-(N-benzylcarbamoyl)acetate | 1.0 g | S1C(SC=C1)=C(C(=O)OCC)C(NCC1=CC=CC=C1)=O | C15H15NO3S2
reactant | sodium hydride | 144 mg | [H-].[Na+]
reactant | diethyl maleate | 0.6 ml | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-5-(1,3-dithiol-2-ylidene)-4,6-dioxopiperidine-2,3-dicarboxylic acid diethyl ester | 196 mg | C(C)OC(=O)C1N(C(C(C(C1C(=O)OCC)=O)=C1SC=CS1)=O)CC1=CC=CC=C1 | C21H21NO6S2
